US07671066B2
Preparation of methyl-phenyl-carbamic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester (CHF 5574)
The compound was obtained starting from methyl-phenyl-carbamoyl chloride and 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-ethanone, following the procedure of Example 28.

reactant | methyl-phenyl-carbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC)Cl | C15H13Cl2NO3
product | methyl-phenyl-carbamic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester | ClC=1C=NC=C(C1\C=C(\C1=CC(=C(C=C1)OC)OC)/OC(N(C1=CC=CC=C1)C)=O)Cl | C23H20Cl2N2O4
